US08222281B2
(39A) 2-Chloro-4-(3,4-dichlorobenzyloxy)benzaldehyde
2-Chloro-4-hydroxybenzaldehyde (324 mg, 2.07 mmol), 3,4-dichlorobenzyl alcohol (513 mg, 2.90 mmol), and triphenylphosphine (760 mg, 2.90 mmol) were dissolved in tetrahydrofuran (8 mL), and a diethyl azodicarboxylate toluene solution (2.2 M, 1.32 mL, 2.90 mmol) was slowly added dropwise thereto at room temperature, and then, the resulting mixture was stirred under a nitrogen atmosphere at room temperature for 2 hours. The solvent in the reaction solution was distilled off under reduced pressure, and the resulting residue was washed with hexane/dichloromethane (6/1 (v/v)), whereby the objective title compound was obtained as a white solid (244 mg, yield: 37%).

reactant | 2-Chloro-4-hydroxybenzaldehyde | 2.07 mmol, 324 mg | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | 3,4-dichlorobenzyl alcohol | 2.90 mmol, 513 mg | ClC=1C=C(CO)C=CC1Cl | C7H6Cl2O
reactant | triphenylphosphine | 2.90 mmol, 760 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | 2.90 mmol, 2.2 M, 1.32 mL | C1(=CC=CC=C1)C.N(=NC(=O)OCC)C(=O)OCC
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 2-Chloro-4-(3,4-dichlorobenzyloxy)benzaldehyde | 244 mg, yield: 37% | ClC1=C(C=O)C=CC(=C1)OCC1=CC(=C(C=C1)Cl)Cl | C14H9Cl3O2
